US08877780B2
To a stirred mixture of 3-(5-Aminomethyl-1-oxo-1,3-dihydro-isoindol-2-yl)-piperidine-2,6-dione hydrochloride (0.423 g, 1.15 mmol) and 2,6-dichlorophenyl isocyanate (0.216 g, 1.15 mmol) in acetonitrile (10 mL), was added triethylamine (0.32 mL, 2.30 mmol) at room temperature under nitrogen. After 1 h, 1N aq. HCl (10 mL) was added and the mixture was stirred for 10 min. The product was isolated by filtration, washed with 1N aq. HCl (20 mL), acetonitrile (20 mL) and dried overnight in vacuo to give 1-(2,6-dichloro-phenyl)-3-[2-(2,6-dioxo-piperidin-3-yl)-1-oxo-2,3-dihydro-1H-isoindol-5-ylmethyl]-urea as a white solid (0.156 g, 29% yield): HPLC: Waters Symmetry C18, 5 μm, 3.9×150 mm, 1 mL/min, 240 nm, 30/70 CH3CN/0.1% H3PO4, 3.74 min (99.7%); mp: 238-240° C.; 1H NMR (DMSO-d6) δ 1.93-2.08 (m, 1H, CH), 2.31-2.47 (m, 1H, CH), 2.60 (d, J=17.0 Hz, 1H, CH), 2.84-3.01 (m, 1H, CH), 4.24-4.51 (m, 4H, CH—, CH2), 5.11 (dd, J=5.0, 13.3 Hz, 1H, NCH), 6.96 (t, J=5.9 Hz, 1H, NH), 7.23-7.33 (m, 1H, Ar), 7.42-7.57 (m, 4H, Ar), 7.69 (d, J=7.7 Hz, 1H, Ar), 8.19 (s, 1H, NH), 10.99 (s, 1H, NH); 13C NMR (DMSO-d6) δ 22.48, 31.20, 43.02, 47.07, 51.56, 121.66, 122.85, 126.73, 128.12, 128.38, 130.23, 133.88, 134.07, 142.30, 144.96, 155.13, 167.96, 171.01, 172.86; LCMS: MH=461, 463; Anal Calcd for C21H18N4O4Cl2+0.1H2O: C, 54.47; H, 3.96; N, 12.10; Cl, 15.31. Found: C, 54.12; H, 3.71; N, 11.85; Cl, 15.31.

reactant | 3-(5-Aminomethyl-1-oxo-1,3-dihydro-isoindol-2-yl)-piperidine-2,6-dione hydrochloride | 1.15 mmol, 0.423 g | Cl.NCC=1C=C2CN(C(C2=CC1)=O)C1C(NC(CC1)=O)=O
reactant | 2,6-dichlorophenyl isocyanate | 1.15 mmol, 0.216 g | ClC1=C(C(=CC=C1)Cl)N=C=O | C7H3Cl2NO
reactant | triethylamine | 2.30 mmol, 0.32 mL | C(C)N(CC)CC | C6H15N
reactant | HCl | 1N, 10 mL | Cl | ClH
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | 1-(2,6-dichloro-phenyl)-3-[2-(2,6-dioxo-piperidin-3-yl)-1-oxo-2,3-dihydro-1H-isoindol-5-ylmethyl]-urea | 0.156 g, 29% yield | ClC1=C(C(=CC=C1)Cl)NC(=O)NCC=1C=C2CN(C(C2=CC1)=O)C1C(NC(CC1)=O)=O | C21H18Cl2N4O4
